US07776875B2
Preparation of Intermediate 4-Chloro-2-[1,3]dioxolan-2-yl-phenol
A mixture of 5-chloro-2-hydroxybenzaldehyde (20.0 g, 0.128 mol), ethane-1,2-diol (40.0 g, 0.644 mol) and p-toluenesulfonic acid monohydrate (0.44 g, 2.56 mmol) dissolved in toluene (200 mL) was refluxed for 40 h with a dean-stark to remove water. After the reaction mixture was cooled to room temperature, EtOAc (200 mL) was added. Then the organic phase was washed with saturated NaHCO3 solution, dried over anhydrous Na2SO4 and concentrated to give the title compound as a light-yellow solid (24.6 g).

reactant | 5-chloro-2-hydroxybenzaldehyde | 0.128 mol, 20.0 g | ClC=1C=CC(=C(C=O)C1)O | C7H5ClO2
reactant | ethane-1,2-diol | 0.644 mol, 40.0 g | C(CO)O | C2H6O2
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
catalyst | p-toluenesulfonic acid monohydrate | 2.56 mmol, 0.44 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 4-Chloro-2-[1,3]dioxolan-2-yl-phenol | 24.6 g | ClC1=CC(=C(C=C1)O)C1OCCO1 | C9H9ClO3
